Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROSURGERY
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Traumatic IPH
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ is a ___ year old male who presents to ___ on ___ with a moderate TBI. Patient was brought into the 
ER by EMS for intoxication out of concern for his airway. 
Patient was admitted to the ER on ___ shortly before 3pm 
where he was awake and talking. Patient endorsed drinking 
alcohol. Patient was kept in the ER to sober up. Early ___ 
morning, nursing became concerned as the patient seemed 
lethargic and confused, unsteady on his feet, with an episode of 
emesis. A CT head was performed showing bifrontal and temporal 
contusions. No outward sign of trauma can be appreciated. 

 
Past Medical History:
unknown
 
Social History:
___
Family History:
Unknown
 
Physical Exam:
Exam on Admission:
==================
O:  T: 99.4   BP:  158/80   HR: 68   RR: 18   O2 Sat: 100% RA

GCS at the scene: _Unknown____

GCS upon Neurosurgery Evaluation:  11      
Time of evaluation: ___ 0620am

Airway: [ ]Intubated   [X]Not intubated

Eye Opening: 
 [ ]1 Does not open eyes
 [ ]2 Opens eyes to painful stimuli
 [X]3 Opens eyes to voice
 [ ]4 Opens eyes spontaneously

Verbal:
 [ ]1 Makes no sounds
 [X]2 Incomprehensible sounds
 [ ]3 Inappropriate words
 [ ]4 Confused, disoriented
 [ ]5 Oriented

Motor:
 [ ]1 No movement
 [ ]2 Extension to painful stimuli (decerebrate response)
 [ ]3 Abnormal flexion to painful stimuli (decorticate response)
 [ ___ Flexion/ withdrawal to painful stimuli 
 [ ]5 Localizes to painful stimuli
 [X]6 Obeys commands

Exam:

Upon entering the room, patient is asleep, opened eyes briskly 
to
name. Upon questions patient mutters back but words were not
clear. PERRL. Will stay awake during exam. Purposefully MAE in
the bed. Patient moved BLE to command and lifted RUE to command.
Does not follow commands consistently. Face appears symmetric. 
No
signs of trauma to face/head. 
On Discharge:
=============
Exam: 
___ speaking primary 

Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious
Orientation: [x]Person [x]Place - hospital in ___ [x]Time
Follows commands: [ ]Simple [x]Complex [ ]None
Pupils:  PERRL 4-3mm bilaterally 
EOM: [x]Full [ ]Restricted
Face Symmetric: [x]Yes [ ]NoTongue Midline: [x]Yes [ ]No
Pronator Drift [ ]Yes [x]No     
Speech Fluent: [x]Yes [ ]No - in ___
Comprehension intact [x]Yes [ ]No 

Motor:
Moving all extremities spontaneously with good strength.
Strength ___ in all four extremities 

 
Pertinent Results:
Please see OMR for pertinent results and imaging.
 
Brief Hospital Course:
#TBI
The patient was under close surveillance initially in the ICU 
and then transitioned to the ___ intermediate care 
unit. His traumatic brain injury was managed conservatively. He 
was transferred from the ICU to the ___ on ___. On ___, the 
patient underwent a STAT CT head in the AM which showed slightly 
increased edema in the posterior left frontal lobe possible 
slight increase in mass effect. He remained in the ___ for 
close neurologic checks. The patient remained stable and was 
transitioned to floor status while awaiting discharge planning.

#Altered mental status
Over the course of his admission, the patient had a waxing and 
waning neurologic status with more severe lethargy with minimal 
responsiveness in the morning, following by the patient being 
more awake and alert in the afternoon. Medicine was consulted on 
___ and recommended a full metabolic and infectious work-up 
that finalized as negative. They also recommended starting 
intravenous fluids for low oral intake, discontinuing all 
sedatives and starting high dose IV thiamine for probable 
chronic alcohol abuse. They further recommended consulting 
Neurology for an EEG that was put on ___ and found to be 
negative for acute epileptic activity. He completed his course 
of Keppra x 7 days. He was maintained on salt tabs for 
hyponatremia. He slowly regained his cognition throughout his 
hospitalization. 

On ___, his mental status and cognition were clear enough to 
provide case management and social work with the name of his 
employer and friends with whom he lived. 

#Thrombocytopenia 
The patient received 2 units platelets ___ overnight, 1 unit 
___, 160 on ___. The patient's thrombocytopenia then resolved.

#Thrombocytosis
Later during the patient's hospitalization, the patient 
developed thrombocytosis that continued to uptrend. Medicine was 
consulted. Infectious workup was negative and iron studies/Vit 
B12 were normal. Thrombocytosis resolved.

#Hyponatremia
Serum sodium goal > 132. Hypertonic saline stopped ___ and the 
patient was treated with salt tabs 2 G TID. Salt tabs were 
weaned again on ___. His salt tabs were discontinued on ___, 
and he remained within his goal for normal sodium levels 
throughout discharge. 

#Agitation 
Patient with unknown alcohol history, acutely intoxicated on 
presentation to ___. He was initially on phenobarbital in the 
ICU, and transitioned to a PO Phenobarb taper. Additionally, he 
was managed with Seroquel and Clonidine. His Seroquel was 
discontinued on ___, but restarted on ___ overnight PRN 
QHS for agitation. Over the course of his hospitalization, the 
clonidine patch was discontinued and the patient was treated 
with Seroquel as needed for intermittent agitation. Seroquel was 
discontinued ___ and he remained stable.

#Nutrition
The patient had a nasogastric tube was that removed ___ and his 
diet was advanced on ___ to puree and nectar thick with 
medications crushed in apple sauce. On ___ his diet was 
changed to ground food and nectar thick liquids, crushed meds 
and 1:1 supervision with feeding. The swallow team continued to 
follow the patient while he remained inpatient. On ___, he was 
re-assessed and was advanced to a soft diet with thin liquids. 
At this time, he still required 1:1 supervision with independent 
feedings due to his impulsivity. His diet progressed to a 
regular diet with no modifications at the time of discharge.

#UTI
Upon workup for fever, the patient was found to have Klebsiella 
pneumonia in his urine and was started on Cipro on ___. Abx 
course finished on ___. Patient had no further urinary 
complications during hospitalization.

#Chronic Alcohol Use
The patient was treated with a multivitamin, Thiamine and 
Folate, followed by the initiation of high dose IV Thiamine on 
___ and subsequent taper to daily dosing of 100mg daily. 

#Dispo Planning
On ___, ___ and OT consults were ordered and have been following 
along with patient's progress. ON ___, the patient was 
cognitive enough to provide case management and social work with 
the information for his "boss" and his roommates. ___ and OT 
continued working with the patient towards discharge to home. 
Team meeting was held on ___ and the patient was cleared 
by OT for discharge home with outpatient follow-up.
 
Medications on Admission:
Unknown
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  FoLIC Acid 1 mg PO DAILY  
3.  Multivitamins W/minerals 1 TAB PO DAILY  
4.  Thiamine 100 mg PO DAILY  
5.Outpatient Occupational Therapy
Evaluate and treat
6.Outpatient Physical Therapy
Evaluate and treat
7.Outpatient Speech/Swallowing Therapy
Evaluate and treat

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bifrontal and bitemporal IPH
Hyponatremia
Thrombocytosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity

* We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
* You make take leisurely walks and slowly increase your 
activity at your own pace once you are symptom free at rest. 
___ try to do too much all at once.
* No driving while taking any narcotic or sedating medication. 
* If you experienced a seizure while admitted, you are NOT 
allowed to drive by law. 
* No contact sports until cleared by your neurosurgeon. You 
should avoid contact sports for 6 months. 

Medications

* Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
* You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
* We recommend that you continue to take a multivitamin, folic 
acid and thiamine supplements.

What You ___ Experience:

* You may have difficulty paying attention, concentrating, and 
remembering new information.
* Emotional and/or behavioral difficulties are common. 
* Feeling more tired, restlessness, irritability, and mood 
swings are also common.
* Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

Headaches:

* Headache is one of the most common symptom after a brain 
bleed. 
* Most headaches are not dangerous but you should call your 
doctor if the headache gets worse, develop arm or leg weakness, 
increased sleepiness, and/or have nausea or vomiting with a 
headache. 
* Mild pain medications may be helpful with these headaches but 
avoid taking pain medications on a daily basis unless prescribed 
by your doctor. 
* There are other things that can be done to help with your 
headaches: avoid caffeine, get enough sleep, daily exercise, 
relaxation/ meditation, massage, acupuncture, heat or ice packs. 


When to Call Your Doctor at ___ for:

* Severe pain, swelling, redness or drainage from the incision 
site. 
* Fever greater than 101.5 degrees Fahrenheit
* Nausea and/or vomiting
* Extreme sleepiness and not being able to stay awake
* Severe headaches not relieved by pain relievers
* Seizures
* Any new problems with your vision or ability to speak
* Weakness or changes in sensation in your face, arms, or leg

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:

* Sudden numbness or weakness in the face, arm, or leg
* Sudden confusion or trouble speaking or understanding
* Sudden trouble walking, dizziness, or loss of balance or 
coordination
* Sudden severe headaches with no known reason

 
Followup Instructions:
___